US06451740B2
150 mg of 4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenol (described later, produced in Intermediate Production Example 1) was dissolved in 1.0 ml of N,N-dimethylformamide, and to this was added 51 mg of anhydrous potassium carbonate, and 50 mg of methyl bromoacetate was added with stirring at room temperature, then, the mixtures was stirred for 2 hours at 60° C. The reaction solution was cooled to room temperature, then, the reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 167 mg of methyl [4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate [Compound 1-11 of the present invention].

reactant | 4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenol | 150 mg | ClC1=C(OC2=CC=C(C=C2)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C18H11ClF4N2O4
reactant | potassium carbonate | 51 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 50 mg | BrCC(=O)OC | C3H5BrO2
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | methyl [4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate | 167 mg | ClC1=C(OC2=CC=C(OCC(=O)OC)C=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C21H15ClF4N2O6
